US20010041726A1
19a. 1-(4-Methylthiophenyl)-3-phenylpropan-1-one
To a stirred solution of 4-(methylthio)benzonitrile (25.0 g, 0.17 mol) in THF (100 mL) under N2 atmosphere was added phenethylmagnesium chloride (1.0 M in THF, 210 mL, 0.21 mol). The solution was heated to reflux for 4 hours, cooled to 0 OC, and quenched carefully with water (10 mL). The resulting slurry was treated with 6 N hydrochloric acid (200 mL) and stirred at room temperature overnight. The THF was evaporated from the mixture, and the residue was extracted with EtOAc (2 X 300 mL). The combined organic extracts were washed with 2M NACO, dried over Na2SO4, filtered, and concentrated to give a solid material. Recrystallization from EtOAc-Hex (1:4) afforded the title compound (41.5 g, 96%) as greenish plates. mp 105 —C. 1H NMR (300 MHz, CDCl3) δ7.85 (d, J=8.5 Hz, 2H), 7.32-7.19 (m, 7H), 3.24 (t, J=6.8 Hz, 2H), 3.06 (t, J=6.8 Hz, 2H), 2.50 (s, 3H); 13C NMR (75 MHz, CDCl3) 8 198.2, 145.8, 141.3, 133.2, 128.48, 128.42, 128.38, 126.1, 125.0,40.2,30.2, 14.7; mass spectrum (API-TIS) m/z 257 (M+H).

reactant | 4-(methylthio)benzonitrile | 0.17 mol, 25.0 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | phenethylmagnesium chloride | 0.21 mol, 1.0 M, 210 mL | C(CC1=CC=CC=C1)[Mg]Cl
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(4-Methylthiophenyl)-3-phenylpropan-1-one | 41.5 g, 96% | CSC1=CC=C(C=C1)C(CCC1=CC=CC=C1)=O | C16H16OS
